US05264415
N,N-dimethyl 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]-hexanamide
To a 100 mL 3 neck flask stirring under nitrogen was charged 1.5 g (0.9375 mole) 60% sodium hydride (prewashed with hexanes) in 50 mL of dimethyl formamide. To the slurry was charged 3.83 g (0.0125 mole) of 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanamide in 50 mL of dimethyl formamide. The mixture was stirred at room temperature for 3 hours then quenched by adding 20 mL of water and 75 mL of ether. The ether was washed with 50 mL water and the aqueous phase was extracted with 50 ml ethyl acetate. The ether was dried and concentrated and gave 1.88 g (45.1% yield) of product as an oil, Example 160 of Table 1.

reactant | sodium hydride | 0.9375 mole, 1.5 g | [H-].[Na+]
reactant | 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanamide | 0.0125 mole, 3.83 g | ClC1=CC=C(C=C1)C(C(=O)N)(CCCC)CN1N=CN=C1 | C15H19ClN4O
reactant | dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
reactant | dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
product | N,N-dimethyl 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]-hexanamide | 1.88 g, 45.1% yield | CN(C(C(CCCC)(CN1N=CN=C1)C1=CC=C(C=C1)Cl)=O)C | C17H23ClN4O
